US04072686
Alternatively this compound is prepared by the reaction of 4-phenyl-4-piperidineethanol with 3,3,3-triphenylpropyl chloride, also as described in Example 1. Reaction with acetic anhydride by methods set out in Example 3 provides 1-(3,3,3-triphenylpropyl)-4-phenyl-4-acetoxyethylpiperidine hydrochloride.

reactant | 4-phenyl-4-piperidineethanol | C1(=CC=CC=C1)C1(CCNCC1)CCO | C13H19NO
reactant | 3,3,3-triphenylpropyl chloride | C1(=CC=CC=C1)C(CCCl)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19Cl
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(3,3,3-triphenylpropyl)-4-phenyl-4-acetoxyethylpiperidine hydrochloride | Cl.C1(=CC=CC=C1)C(CCN1CCC(CC1)(CCOC(C)=O)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C36H39NO2.ClH/c1-30(38)39-29-25-35(31-14-6-2-7-15-31)22-26-37(27-23-35)28-24-36(32-16-8-3-9-17-32,33-18-10-4-11-19-33)34-20-12-5-13-21-34;/h2-21H,22-29H2,1H3;1H
